US05808126
5-methyl-1,5,9-decatriene was synthesized from 7.3 mL of 5-hexene-2-one, and an ylide prepared from 26.3 g. of 1-pentenyl-triphenylphosphonium bromide and 32 mL of 2.0 molar solution of n-butyllitium in THF at -78° C. The mixture was allowed to warm to room temperature over six hours, during which all of the salt dissolved and the ylid was apparent by the red color of the solution. This mixture was then cooled to -70° C. and 7.3 mL of 5-hexene-2-one in 20 mL of dry THF was added slowly with stirring. This reaction solution was then warmed to room temperature, followed by refluxing for 12 h. The THF was then distilled out of the reaction flask and 100 mL of pentane added along with 100 mL of water. The pentane was decanted and the water was extracted with another 100 mL of pentane. The combined pentane layers were washed with 50 mL portions of dilute HCl, water, 5% solution of NaHCO3 and water. The pentane layer was dried over MgSO4 and filtered through alumina. The pentane was distilled off. The isolated product was distilled at 78° C. at 15 mm Hg. Then, the monomer was distilled from CaH2 degassed by several freeze-thaw cycles, and vacuum transferred to successive sodium mirrors and stirred until no reaction was observed. The resulting product was 5-methyl-1,5,9-decatriene. FIGS. 1 and 3 show the 1H and 13C NMR spectra of the resulting product.

reactant | 5-hexene-2-one | 7.3 mL | CC(CCC=C)=O | C6H10O
reactant | n-butyllitium | C(CCC)[Li]
reactant | 5-hexene-2-one | 7.3 mL | CC(CCC=C)=O | C6H10O
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-methyl-1,5,9-decatriene | CC(CCC=C)=CCCC=C | C11H18
